US07807690B2
(11g) 4-(3-{[2-Fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]-(1-imino-2,3-dihydro-1H-isoindol-5-ylamino)methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)oxazole-5-carboxylic acid
To a mixture of 4-(3-{[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylamino]-[2-fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)oxazole-5-carboxylic acid methyl ester (39 mg) and methanol (2.0 mL) there was added a 5 M sodium hydroxide aqueous solution (28 μL), and the mixture was stirred overnight at room temperature. After neutralizing the mixture with acetic acid, the solvent in the mixture was distilled off under reduced pressure. Dichloromethane (2.0 mL) was added to the residue, and then a 4M hydrogen chloride-ethyl acetate solution (500 μL) was added to the solution prior to stirring at room temperature for 15 minutes. Toluene (10 mL) was added to the mixture, and the solvent in the mixture was distilled off. The residue was purified by reverse-phase high performance liquid chromatography (acetonitrile/water mixed solvent, 0.1% acetic acid) to obtain the target compound (8.5 mg).

reactant | 4-(3-{[3-(t-butoxycarbonylaminomethyl)-4-cyanophenylamino]-[2-fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)oxazole-5-carboxylic acid methyl ester | 39 mg | COC(=O)C1=C(N=CO1)N1N=C(NC1=O)C(C1=C(C(=CC(=C1)OC)OCCO)F)NC1=CC(=C(C=C1)C#N)CNC(=O)OC(C)(C)C | C30H32FN7O9
reactant | methanol | 2.0 mL | CO | CH4O
reactant | sodium hydroxide | 5 M, 28 μL | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-{[2-Fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]-(1-imino-2,3-dihydro-1H-isoindol-5-ylamino)methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)oxazole-5-carboxylic acid | 8.5 mg | FC1=C(C=C(C=C1OCCO)OC)C(C1=NN(C(N1)=O)C=1N=COC1C(=O)O)NC=1C=C2CNC(C2=CC1)=N | C24H22FN7O7
